US07078405B2
4-Bromo-6-chloro-3-pyridazineamine
Sodium bicarbonate (13.0 g, 155 mmol) and bromine (4.0 mL, 78 mmol) were added to a solution of 3-amino-6-chloropyridazine (10.0 g, 78 mmol) in methanol (150 mL) at room temperature, and the mixture was stirred for 15 hours. The reaction mixture was filtered, and the solvent was evaporated. Water was added thereto, which was extracted with ethyl acetate. The organic layer was washed with a 10% aqueous sodium thiosulfate solution, an aqueous saturated sodium bicarbonate solution and a brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:1) to give the title compound (8.6 g, 53%) as tan crystals.

reactant | Sodium bicarbonate | 155 mmol, 13.0 g | C([O-])(O)=O.[Na+]
reactant | bromine | 78 mmol, 4.0 mL | BrBr | Br2
reactant | 3-amino-6-chloropyridazine | 78 mmol, 10.0 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
solvent | methanol | 150 mL | CO | CH4O
product | 4-Bromo-6-chloro-3-pyridazineamine | 8.6 g, 53% | BrC1=C(N=NC(=C1)Cl)N | C4H3BrClN3
